Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-9.14660503918
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[C:3]1([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:1][O:2],2.81508245306
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],2.15756534058
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.41065600357
[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-2.07167479689
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],5.29942956635
[C:3](#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.25050056553
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.10150115985
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],-3.73923180999
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4],4.89518916382
[C:7][H:8].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.13247206319
[H:1][O:2]/[C:3]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.859368386130001
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],2.16881972165
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.54899970809
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.29157270923
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],2.11775190182
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.22590158964
[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],0.9688897742
[H:1][C:2]([H:3])=[C:4][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.78673913547
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.28904320512
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7](=[O:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-1.49669382087
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.357810601356
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.31189878809
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]#[C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]#[C:10][H:11].[H:1],3.9709575751
[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.689950205290001
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],3.10425495149
[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],4.87852405459
[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]#[C:6][H:7],1.95485159029
[H:4].[O:1]=[C:2]=[C:3][C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9],-3.23196982189
